US06821967B2
b. 3-methyl-2-piperazin-1-yl-3H-imidazo[4,5]pyridine
A solution of 2.74 g (8.63 mmol) of tert.butyl 4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-carboxylate and 3.5 ml of trifluoroacetic acid in 50 ml of dichloromethane is stirred for 14 hours while refluxing. Dilute sodium carbonate is added cautiously, the organic phase is separated off and the aqueous phase is extracted with dichloromethane. The combined organic phases are dried over sodium sulphate.

reactant | tert.butyl 4-(3-methyl-3H-imidazo[4,5]pyridin-2-yl)-piperazin-1-carboxylate | 8.63 mmol, 2.74 g | CN1C(=NC=2C=CC=NC21)N2CCN(CC2)C(=O)OC(C)(C)C | C16H23N5O2
reactant | trifluoroacetic acid | 3.5 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-methyl-2-piperazin-1-yl-3H-imidazo[4,5]pyridine | CN1C(=NC=2C=CC=NC21)N2CCNCC2 | C11H15N5
